US04918058
STAGE A: Demycarosyltylosin
4 g (0.004 mmol) of tylosin base are stirred in 80 ml of 0.2N hydrochloric acid for 4 hours at room temperature. The reaction medium obtained is washed with dichloromethane and the aqueous phase is separated and adjusted to pH 8.0. The latter phase is extracted twice with 120 ml of dichloromethane, and the organic phases are combined, dried over sodium sulfate and evaporated. The residue consists of demycarosyltylosin.

reactant | tylosin | 0.004 mmol, 4 g | CC[C@@H]1[C@H](/C=C(/C=C/C(=O)[C@@H](C[C@@H]([C@@H]([C@H]([C@@H](CC(=O)O1)O)C)O[C@H]2[C@@H]([C@H]([C@@H]([C@H](O2)C)O[C@H]3C[C@@]([C@H]([C@@H](O3)C)O)(C)O)N(C)C)O)CC=O)C)\C)CO[C@H]4[C@@H]([C@@H]([C@@H]([C@H](O4)C)O)OC)OC | C46H77NO17
solvent | hydrochloric acid | 0.2N, 80 ml | Cl | ClH
product | Demycarosyltylosin | CCC1C(/C=C(\C=C\C(=O)C(CC(C(C(C(CC(=O)O1)O)C)OC2C(C(CC(O2)C)N(C)C)O)CC=O)C)/C)COC3C(C(C(C(O3)C)O)OC)OC | C39H65NO13
